US08877782B2
{6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-thiomorpholin-4-yl-methanone
As described for example 117, 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (72 mg, 0.2 mmol) was converted, using thiomorpholine instead of 2,2,2-trifluoroethylamine, to the title compound (82 mg, 95%) which was obtained as a white solid. MS: m/e=430.5 [M+H]′.

reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.2 mmol, 72 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)Cl)=O | C18H15ClN2O4
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | {6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-thiomorpholin-4-yl-methanone | 82 mg, 95% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCSCC1)C | C21H20ClN3O3S
